US07314937B2
4-[7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-sulfonyl]-benzamide:
A 1.4 mL DMSO mixture of K2CO3 is stirred under N2, 2-(4-cyanobenzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline (75 mg, 0.17 mmol) is added, 0.2 mL H2O added, followed by 30% H2O2 (1.4 mL, 12 mmol) and reaction is stirred at room temperature for 4 hours. The reaction mixture is diluted with MeOH, filtered, and the solids washed twice with MeOH. The filtrate is concentrated and the residue is purified by chromatography (SCX-MeOH wash, elute 2M NH3/MeOH; then SiO2; 0-10% MeOH/CH2Cl2/1% NH4OH gradient) to give the product as an off-white solid (26 mg, 26% yld). MS (ES+)458.2(M+H)+.

reactant | DMSO | 1.4 mL | CS(=O)C | C2H6OS
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(4-cyanobenzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline | 0.17 mmol, 75 mg | C(#N)C1=CC=C(C=C1)S(=O)(=O)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | C24H29N3O3S
reactant | H2O2 | 12 mmol, 1.4 mL | OO | H2O2
solvent | MeOH | CO | CH4O
solvent | H2O | 0.2 mL | O | H2O
product | 4-[7-(3-Piperidin-1-yl-propoxy)-3,4-dihydro-1H-isoquinoline-2-sulfonyl]-benzamide | 26 mg, 26% | N1(CCCCC1)CCCOC1=CC=C2CCN(CC2=C1)S(=O)(=O)C1=CC=C(C(=O)N)C=C1 | C24H31N3O4S
